### PR TITLE
[Merged by Bors] - chore(*): golf, add missing lemmas

### PR DESCRIPTION
**Pull request by urkud**
Cherry-picked parts of #33241

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 1]
```diff
@@ -597,9 +597,8 @@ theorem inf_comap_le_comap_add (f₁ f₂ : M →ₛₗ[τ₁₂] M₂) :
     comap f₁ q ⊓ comap f₂ q ≤ comap (f₁ + f₂) q := by
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Map.lean:597]: here's an even better golf
```suggestion
    comap f₁ q ⊓ comap f₂ q ≤ comap (f₁ + f₂) q :=
  fun _ h ↦ mem_comap.mpr <| add_mem h.1 h.2
```

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 2]
```diff
@@ -151,15 +151,11 @@ theorem cotangentEquivIdeal_apply (x : I.Cotangent) :
...
-      by exact Submodule.mem_map_of_mem (F := R →ₗ[R] R ⧸ I ^ 2) (f := (I ^ 2).mkQ) hx⟩ =
-      I.toCotangent (R := R) ⟨x, hx⟩ := by
-  apply I.cotangentEquivIdeal.injective
-  rw [I.cotangentEquivIdeal.apply_symm_apply]
+    I.cotangentEquivIdeal.symm ⟨(I ^ 2).mkQ x, Submodule.mem_map_of_mem hx⟩ =
+      I.toCotangent ⟨x, hx⟩ := by
+  rw [I.cotangentEquivIdeal.symm_apply_eq]
   ext
-  rfl
+  simp
```
Comment (themathqueen) [inline Mathlib/RingTheory/Ideal/Cotangent.lean]: or
```lean
  simp [I.cotangentEquivIdeal.symm_apply_eq, Subtype.ext_iff]
```
or
```lean
  exact I.cotangentEquivIdeal.injective (I.cotangentEquivIdeal.apply_symm_apply _)
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Algebra/Module/Submodule/Map.lean:597]: I'm going to leave one `simp` call to avoid (ab?)using defeq.
